US07514449B2
Ethyl 3-aminoisonicotinate (5.55 g) is suspended in water (70 ml), and thereto added conc. sulfuric acid (4.0 ml). The reaction solution is cooled with ice, and a solution of sodium nitrite (2.79 g) in water (30 ml) is added dropwise thereto. The reaction solution is stirred under the same cooling conditions for 20 minutes and then at 90° C. for 80 minutes. The reaction solution is diluted with water (100 ml) and the solution is adjusted to pH 8 to 9 by addition of saturated aqueous sodium hydrogen carbonate solution, followed by extraction with chloroform. The organic layer is dried over sodium sulfate and evaporated to remove the solvent under reduced pressure. The resulting residue is purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=5/1) to give ethyl 3-hydroxyisonicotinate (2.64 g).

reactant | Ethyl 3-aminoisonicotinate | 5.55 g | NC1=C(C(=O)OCC)C=CN=C1 | C8H10N2O2
reactant | sulfuric acid | 4.0 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 2.79 g | N(=O)[O-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 70 ml | O | H2O
solvent | water | 30 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | ethyl 3-hydroxyisonicotinate | 2.64 g | OC1=C(C(=O)OCC)C=CN=C1 | C8H9NO3
